US06376555B1
4-{(E)-2-[3,4-Dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enyl]-vinyl}-benzonitrile
The title compound was prepared via cyano-debromination (Tschaen, Synth. Comm. 1994, 24, 887) of the title compound of Example 26. To a mixture of 3-[(E)-2-(4-bromo-phenyl)-vinyl]-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione (400 mg, 1.10 mmol) and zinc (II) cyanide (77.8 mg, 0.662 mmol) in DMF (1.20 mL) was added tetrakis(triphenylphosphine)palladium (0) (76.6 mg, 0.0662) under an atmosphere of Argon. The reaction mixture was heated to 100° C., stirred 18 hours, then worked up by dilution with toluene (150 mL), followed by consecutive extraction with ammonium hydroxide (3×50 mL) and brine (50 mL). The organic phase was further diluted with ethyl acetate (300 mL), dried over MgSO4, filtered through a short pad of diatomaceous earth, and then concentrated onto silica gel. Submission to flash chromatography (multiple gradient elution with ether-petroleum ether) afforded a yellow solid which was triturated with ether-hexanes. Drying under high vacuum at 60° C. yielded the title compound (248 mg, 73%) as a hydroscopic yellow solid (1H NMR in DMSO-d6 suggested the presence of amide rotamers in a ratio of approximately 4:1): m.p. 240.2-241.0° C.; 1H NMR (DMSO-d6) δ 8.96(d,1H), 7.83(m,4H), 7.64(d,1H), 7.48(d,1H), 4.03(dq,1H), 1.20(d,3H), 0.90(s,9H); IR (KBr) 3450, 3250, 3290, 2960, 1770, 1725, 1620, 1600, 1500, 1480, 1440, 1405, 1170, 1140, 1080, 980, 825, 755; MS (m/z) 309 [(M+H)+], 331 [(M+Na)+].

reactant | 3-[(E)-2-(4-bromo-phenyl)-vinyl]-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione | 1.10 mmol, 400 mg | BrC1=CC=C(C=C1)/C=C/C=1C(C(C1NC(C(C)(C)C)C)=O)=O | C18H20BrNO2
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
reactant | DMF | 1.20 mL | CN(C)C=O | C3H7NO
catalyst | zinc (II) cyanide | 0.662 mmol, 77.8 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 76.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{(E)-2-[3,4-Dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enyl]-vinyl}-benzonitrile | 248 mg, 73% | O=C1C(=C(C1=O)/C=C/C1=CC=C(C#N)C=C1)NC(C(C)(C)C)C | C19H20N2O2
